US07956070B2
Step 1: 2-[(Methylsulfonyl)amino]-4-(trifluoromethyl)-1,3-thiazole-5-carboxylic acid
To a stirred solution of ethyl-2-amino-4-(trifluoromethyl)-5-thiazole carboxylate (1.2 g) and triethylamine (2.1 mL) in THF (12 mL) was added methane sulfonic anhydride (1.74 g) in small portions at room temperature. After 2 h, the reaction mixture was concentrated in vacuo and the residue was stirred in dioxane (5 mL) and aqueous 1 N NaOH (5 mL) for 16 h. The reaction mixture was concentrated in vacuo and to the residue in water (20 mL) and THF (30 mL) was added lithium hydroxide monohydrate (1.8 g) before being heated at 50° C. for 12 h. To the cooled reaction mixture was added 1 N aqueous hydrochloric acid (30 mL) and extracted into EtOAc (2×25 mL), dried over sodium sulfate, filtered, and concentrated in vacuo.

reactant | ethyl-2-amino-4-(trifluoromethyl)-5-thiazole carboxylate | 1.2 g | C(C)OC(=O)C1=C(N=C(S1)N)C(F)(F)F | C7H7F3N2O2S
reactant | triethylamine | 2.1 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonic anhydride | 1.74 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | hydrochloric acid | 1 N, 30 mL | Cl | ClH
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 2-[(Methylsulfonyl)amino]-4-(trifluoromethyl)-1,3-thiazole-5-carboxylic acid | CS(=O)(=O)NC=1SC(=C(N1)C(F)(F)F)C(=O)O | C6H5F3N2O4S2
